US04816452
d. (2-(2-Aminothiazol-4-yl)-(Z)-2-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yloxyimino]acetic acid
tert-Butyl 3-oxo-(Z)-2-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(4-nitrobenzyloxycarbonyl)pyrrolidine-4-yloxyimino]butyrate (2.19 g, 3.56 mmol) in acetic acid (7 ml) was treated with sulphuryl chloride (2.89 ml, 4.81 g, 35.6 mmol) and the mixture was heated at 50° C. for 2.75 h. The mixture was evaporated under reduced pressure, and toluene added to the residue an the solvent evaporated. The was repeated a further three times. The residue was partially dissolved in ethanol (15 ml) and thiourea (271 mg, 3.56 mmol) was added, followed by N,N-dimethylaniline (0.9 ml, 860 mg, 7.1 mmol). Ethanol (15 ml) was added and the mixture was warmed to effect dissolution, the mixture was stirred at room temperture for 1.5 h, then warmed again to dissolve the material, and stirred a further 0.5 h. The ethanol was then removed by evaporation under reduced pressure and a mixture of water/ethyl acetate/n-butanol added. The pH was adjusted to 2 and the layers separated. The aqueous layer was again extracted with n-butanol (x2). The butanol extracts were combined and evaporated under reduced pressure. Ethanol was added to the residue and removed under reduced pressure, followed by toluene (x3) to leave a solid which was dried over P2O5 in vacuo to give the crude title compound (2.03 g); νmax (KBr) 3383, 1745, 1710, 1630, 1607, 1521, 1432, 1404 and 1347 cm-1.

reactant | tert-Butyl 3-oxo-(Z)-2-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(4-nitrobenzyloxycarbonyl)pyrrolidine-4-yloxyimino]butyrate | 3.56 mmol, 2.19 g | O=C(/C(/C(=O)OC(C)(C)C)=N/O[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C28H30N4O12
reactant | sulphuryl chloride | 35.6 mmol, 2.89 ml, 4.81 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | thiourea | 3.56 mmol, 271 mg | NC(=S)N | CH4N2S
reactant | N,N-dimethylaniline | 7.1 mmol, 0.9 ml, 860 mg | CN(C1=CC=CC=C1)C | C8H11N
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | Ethanol | 15 ml | C(C)O | C2H6O
product | 2-(2-Aminothiazol-4-yl)-(Z)-2-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yloxyimino]acetic acid | 2.03 g | NC=1SC=C(N1)/C(/C(=O)O)=N/O[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H22N6O11S
